US06355642B1
1-t-Butoxycarbonyl-4-(2-carbamoylphenyl)piperazine
1-(2-Carbamoylphenyl)piperazine (300 mg, 1.5 mmol) was dissolved in water (2 ml) and 1,4-dioxane (2 ml) The resulting solution was mixed with sodium bicarbonate (250 mg, 2.9 mmol) and di-t-butyl carbonate (480 mg, 2.2 mmol), and then stirred at a room temperature for 4 hours. The reaction solution was mixed with water (20 ml), and the reaction product was extracted with chloroform (80 ml) and washed with water and saturated brine. Then the solvent was evaporated under a reduced pressure to obtain colorless crystals. Thereafter, the crystals were washed with hexane and then dried to obtain 430 mg of the title compound (1.4 mmol, 96% in yield).

reactant | 1-(2-Carbamoylphenyl)piperazine | 1.5 mmol, 300 mg | C(N)(=O)C1=C(C=CC=C1)N1CCNCC1 | C11H15N3O
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | 2.9 mmol, 250 mg | C([O-])(O)=O.[Na+]
reactant | di-t-butyl carbonate | 2.2 mmol, 480 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | water | 2 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-t-Butoxycarbonyl-4-(2-carbamoylphenyl)piperazine | 1.4 mmol, 430 mg, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)C(N)=O | C16H23N3O3
